US05688803
672 mg (2.98 mmol) of tin dichloride were dissolved in 3.4 ml of conc. hydrochloric acid at 80° C. 200 mg (0.71 mmol) of 8-chloro-9-nitro-2,3,5,6-tetrahydro-1,2,4-triazolo[4,3-c]quinazoline-3,5-dione were added portionwise thereto. After heating at reflux for 2 hrs. the precipitate was filtered off, washed with water and dried in a vacuum. 137 mg (67%) of 9-amino-8-chloro-2,3,5,6-tetrahydro-1,2,4-triazolo[4,3-c]quinazoline-3,5-dione hydrochloride were obtained as white crystals;

reactant | tin dichloride | 2.98 mmol, 672 mg | [Sn](Cl)Cl
reactant | 8-chloro-9-nitro-2,3,5,6-tetrahydro-1,2,4-triazolo[4,3-c]quinazoline-3,5-dione | 0.71 mmol, 200 mg | ClC=1C(=CC=2C=3N(C(NC2C1)=O)C(NN3)=O)[N+](=O)[O-] | C9H4ClN5O4
solvent | hydrochloric acid | 3.4 ml | Cl | ClH
product | 9-amino-8-chloro-2,3,5,6-tetrahydro-1,2,4-triazolo[4,3-c]quinazoline-3,5-dione hydrochloride | 137 mg, 67% | Cl.NC1=CC=2C=3N(C(NC2C=C1Cl)=O)C(NN3)=O | InChI=1S/C9H6ClN5O2.ClH/c10-4-2-6-3(1-5(4)11)7-13-14-9(17)15(7)8(16)12-6;/h1-2H,11H2,(H,12,16)(H,14,17);1H
